US04038396
A solution of 5.5 g. of 3,5-dinitro-2-pyridone in 200 ml. of methanol was adjusted to pH 8 with ammonium hydroxide. At 60°-65° C., there was added slowly a solution of 10.8 g. of sodium sulfide nonahydrate in 30 ml. of water. After 1 hour at 60°-65° C. the solvent was evaporated and the residue was extracted with hot benzene and acetic acid to neutralize any sodium salt. The benzene was decanted and cooled to give a precipitate. Recrystallization from methanol gave 3-amino-5-nitro-2-pyridone, m.p. 200°-201° C.

reactant | 3,5-dinitro-2-pyridone | [N+](=O)([O-])C=1C(NC=C(C1)[N+](=O)[O-])=O | C5H3N3O5
reactant | methanol | CO | CH4O
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | sodium sulfide nonahydrate | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
solvent | water | O | H2O
product | 3-amino-5-nitro-2-pyridone | NC=1C(NC=C(C1)[N+](=O)[O-])=O | C5H5N3O3
